US06329402B1
5,6,7,8-Tetrahydro-3,5,5,8,8-pentamethylquinoxaline-2-carbaldehyde
A solution of 923 μl of dimethyisulfoxide in 2 ml of dichloromethane was added dropwise to a solution of 797 pl of oxalyl chloride in 6 ml of dichloromethane at −60° C. under a nitrogen gas stream, followed by stirring for 5 minutes. To the reaction mixture, a solution of 1 g of 5,6,7,8-tetrahydro-3,5,5,8,8-pentamethylquinoxaline-2-methanol in 6 ml of dichloromethane was added dropwise and the resulting mixture was stirred for 15 minutes. Triethylamine (4.8 ml) was then added dropwise to the reaction mixture, followed by stirring for 5 minutes. After the reaction mixture was raised to room temperature and stirred for 15 minutes, water was added thereto. The resulting mixture was extracted with dichloromethane. The organic layer was successively washed with water and saturated saline, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue so obtained was subjected to chromatography on a silica gel column (developing solvent: 10% ethyl acetate/n-hexane), whereby 940 mg of the title compound were obtained in the form of a pale yellow solid.

reactant | dimethyisulfoxide | 923 μl | CS(=O)C | C2H6OS
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5,6,7,8-tetrahydro-3,5,5,8,8-pentamethylquinoxaline-2-methanol | 1 g | CC=1C(=NC=2C(CCC(C2N1)(C)C)(C)C)CO | C14H22N2O
reactant | Triethylamine | 4.8 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
solvent | water | O | H2O
product | 5,6,7,8-Tetrahydro-3,5,5,8,8-pentamethylquinoxaline-2-carbaldehyde | 940 mg | CC=1C(=NC=2C(CCC(C2N1)(C)C)(C)C)C=O | C14H20N2O
